US03939202
To a mixture of ethyl 3,7,11,15,19-pentamethyl-6,10,14,18-eicosatetraen-2-ol-1-carboxylate (217 g) and pyridine (215 ml), chromic acid-pyridine (prepared by adding portionwise chromium trioxide (300 g) to a mixture of pyridine (480 ml) and methylene chloride (3000 ml) while cooling with ice) is added thereto, and the resultant mixture is stirred for 4 hours. The reaction mixture is added to water, and the methylene chloride layer is separated, washed with water, dried and evaporated. The residual material (203 g) is chromatographed on silica gel (1kg) using benzene to give ethyl 3,7,11,15,19-pentamethyl-6,10,14,18-eicosatetraen-2-one-1-carboxylate (172 g). IR: 1740, 1225 cm-1 (COO); 1710 cm-1 (C=O).

reactant | ethyl 3,7,11,15,19-pentamethyl-6,10,14,18-eicosatetraen-2-ol-1-carboxylate | 217 g | CC(C(CC(=O)OCC)O)CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C | C28H48O3
reactant | pyridine | 215 ml | N1=CC=CC=C1 | C5H5N
reactant | chromic acid pyridine | [Cr](=O)(=O)(O)O.N1=CC=CC=C1
reactant | pyridine | 480 ml | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 3000 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 300 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | O | H2O
product | ethyl 3,7,11,15,19-pentamethyl-6,10,14,18-eicosatetraen-2-one-1-carboxylate | 172 g | CC(C(CC(=O)OCC)=O)CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C | C28H46O3
